US08633173B2
N-(2-{[2-(Isoquinolin-6-ylamino)-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino]-methyl}-phenyl)-N-methyl-methanesulfonamide was prepared from N-{2-[(2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino)-methyl]-phenyl}-N-methyl-methanesulfonamide (100.0 mg, 0.2733 mmol) and isoquinolin-6-ylamine (45.0 mg, 0.312 mmol) with 2,2′-bis-dicyclohexylphosphanyl-biphenyl (25.0 mg, 0.0457 mmol) as the ligand in a manner analogous to Example 2d. Product isolated as a yellow foam (0.079 g, 61%). 1H NMR (400 MHz, CDCl3, δ, ppm): 9.09 (s, 1H), 8.43 (d, J=5.1 Hz, 1H), 8.28 (s, 1H), 7.92-7.87 (m, 2H), 7.62 (d, J=5.3 Hz, 1H), 7.54 (d, J=6.8 Hz, 2H), 7.40-7.28 (m, 3H), 7.18 (s, 1H), 6.76 (t, J=7.0 Hz, 1H), 6.44 (d, J=7.3 Hz, 1H), 5.39-5.32 (m, 1H), 4.75 (d, J=5.4 Hz, 2H), 3.32 (s, 3H), 3.02 (s, 3H). MS=474 (MH)+.

reactant | N-{2-[(2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino)-methyl]-phenyl}-N-methyl-methanesulfonamide | 0.2733 mmol, 100.0 mg | ClC1=NN2C(C(=CC=C2)NCC2=C(C=CC=C2)N(S(=O)(=O)C)C)=N1 | C15H16ClN5O2S
reactant | isoquinolin-6-ylamine | 0.312 mmol, 45.0 mg | C1=NC=CC2=CC(=CC=C12)N | C9H8N2
reactant | 2,2′-bis-dicyclohexylphosphanyl-biphenyl | 0.0457 mmol, 25.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1CCCCC1 | C36H52P2
product | N-(2-{[2-(Isoquinolin-6-ylamino)-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino]-methyl}-phenyl)-N-methyl-methanesulfonamide | C1=NC=CC2=CC(=CC=C12)NC1=NN2C(C(=CC=C2)NCC2=C(C=CC=C2)N(S(=O)(=O)C)C)=N1 | C24H23N7O2S
